03-Offset_et_PBF
*SPICE Netlist generated by Advanced Sim server on 16/01/2025 11:58:33
.options MixedSimGenerated

*Schematic Netlist:
DD1 0 NetD1_1 GENERATED_MODEL_DD1
RR1 12V ExtraNet_RR1_2 470 TC1=0 TC2=0
VV1 12V 0 12 AC 1 0

.PROBE {V(NetD1_1)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.DC Temp 1n 1u 100n

*Models and Subcircuits:
.MODEL GENERATED_MODEL_DD1 D( BV=3.3V )

.MODEL diode D ()

.END